US05399584
Preparation of 2-fluoro-6-methoxyacetophenone (5):
To a flask containing methyl magnesium bromide (1.18 g, 9.93 mmol) in ether is added dropwise 2-fluoro-6-methoxybenzonitrile (0.5 g, 3.31 mmol, Lancaster Synthesis Inc.) in benzene (9 ml). The reaction mixture is refluxed overnight. The reaction is cooled to room temperature and quenched slowly with saturated ammonium chloride (15 ml) and concentrated hydrochloric acid (1 ml). The mixture is extracted with diethyl ether (2×50 ml). The combined organic layers are dried over Na2SO4, filtered, and rotary evaporated to give 0.55 g of a crude yellow material. Purification is accomplished by vacuum column (eluting with 16% ethyl acetate in hexane). The compoundcontaining fractions are combined, yielding 5.

reactant | methyl magnesium bromide | 9.93 mmol, 1.18 g | C[Mg]Br
reactant | 2-fluoro-6-methoxybenzonitrile | 3.31 mmol, 0.5 g | FC1=C(C#N)C(=CC=C1)OC | C8H6FNO
reactant | ether | CCOCC | C4H10O
solvent | benzene | 9 ml | C1=CC=CC=C1 | C6H6
product | 2-fluoro-6-methoxyacetophenone | CC(=O)C1=C(C=CC=C1F)OC | C9H9FO2
